US05464781
A mixture of 3-ethoxy-5-(4-methoxyanilino)-2-methyl-1,8-naphthyridine hydrochloride (5.0 g), glyoxylic acid monohydrate (2.2 g) and glacial acetic acid (50 ml) were stirred and treated dropwise with trifluoroacetic acid (12.5 ml). The mixture was stirred and heated at 95° C. for 22 hours and cooled to ambient temperature. The mixture was filtered and the solid obtained was stirred in sodium bicarbonate solution (100 ml) for 15 minutes. The mixture was filtered. The solid obtained was stirred in water (100 ml) and acidified with concentrated hydrochloric acid to pH 1. After stirring for an hour the mixture was filtered to give a solid. The filtrate was evaporated to dryness and the residue triturated with water and filtered. The crops of solid were combined, dissolved in dichloromethane/methanol, dried, filtered and evaporated. The residue was triturated with hot ethyl acetate and hot filtered. The solid obtained was combined with the solid obtained from the acidic mixture above, triturated with hot ethyl acetate and hot filtered. The solid obtained was purified by flash column chromatography on silica using a mixture of ethyl acetate:dichloromethane:methanol, 5:5:1 and then 1:1:1 to give a solid. The solid was triturated with hot ethyl acetate and hot filtered to give 3-[3-ethoxy-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]acrylic acid hydrochloride dihydrate, m.p. 230°-235° C. (with decomposition).

reactant | 3-ethoxy-5-(4-methoxyanilino)-2-methyl-1,8-naphthyridine hydrochloride | 5.0 g | Cl.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC1=CC=C(C=C1)OC)C
reactant | glyoxylic acid monohydrate | 2.2 g | O.C(C=O)(=O)O
reactant | trifluoroacetic acid | 12.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-[3-ethoxy-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]acrylic acid hydrochloride dihydrate | O.O.Cl.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC1=CC=C(C=C1)OC)C=CC(=O)O | InChI=1S/C20H19N3O4.ClH.2H2O/c1-3-27-18-12-15-16(22-13-4-6-14(26-2)7-5-13)10-11-21-20(15)23-17(18)8-9-19(24)25;;;/h4-12H,3H2,1-2H3,(H,24,25)(H,21,22,23);1H;2*1H2
